data/mechanism_extracts/ChemSci/10.1039_d1sc00760b.json
{"doi": "10.1039_d1sc00760b", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrochemical syn-diformyloxylation (protected syn-1,2-diol formation) of vinylarenes using DMF as the oxygen/formyl source and TFA as a co-nucleophile under undivided-cell anodic oxidation.", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of the vinylarene to a benzylic-stabilized alkene radical cation (Eox ~1.15-1.75 V vs SCE); a second anodic SET oxidizes the β-DMF-adduct radical to a benzylic carbocation. TFA/TFA- couple at the cathode produces H2 and regenerates TFA.", "key_intermediates": [{"name": "alkene radical cation (B)", "smiles": null, "role": "reactive"}, {"name": "β-(N,N-dimethyl-iminium-oxy) benzylic radical (C) from nucleophilic addition of DMF oxygen to radical cation", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation (D) formed by second anodic SET oxidation of C", "smiles": null, "role": "reactive"}, {"name": "trifluoroacetoxy-iminium adduct (E/F, isolable) — major path via TFA- capture of D", "smiles": null, "role": "transient"}, {"name": "stereoinverted carbocation/iminium intermediate (G) leading to syn-product via DMF attack with stereoinversion", "smiles": null, "role": "reactive"}, {"name": "α-trifluoroacetoxy iminium F (isolable on-pathway intermediate)", "smiles": null, "role": "transient"}, {"name": "anti-product H' (minor path, direct DMF attack on D)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes the vinylarene to a radical cation; the carbonyl oxygen of DMF adds to the benzylic position giving an α-iminium-oxy carbon radical, which is oxidized again at the anode to a benzylic cation. Trifluoroacetate captures this cation (major path) to give an isolable α-OCOCF3 iminium that undergoes SN1-like ionization and stereoinverted nucleophilic attack by a second DMF, followed by hydrolysis with H2(18)O to deliver the syn-diformate; TFA is regenerated and protons are reduced at the Pt cathode to H2.", "rate_determining_step": "Initial anodic single-electron oxidation of the vinylarene to its radical cation (alkene Eox 1.15–1.75 V; thermodynamically more accessible than DMF oxidation at 2.1 V).", "probe_reagents": [{"name": "DMF-d7", "smiles": "[2H]C(=O)N([2H])([2H])C([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "Both formyl groups in the product are >99% deuterated, confirming that both O-CHO units originate from DMF, not from formic acid or water."}, {"name": "formic acid-d2 (DCOOD)", "smiles": "[2H]C(=O)O[2H]", "purpose": "isotope_label", "observation": "No deuterium incorporation in product formyl groups, ruling out hydrolytically generated HCOOH as the formyl source."}, {"name": "H2(18)O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Doubly 18O-labeled diformate (>69%) is obtained; hydrolysis to diol removes the 18O label, showing the formyloxy oxygens (and thus the diol oxygens) originate from DMF and are only delivered via hydrolytic workup of the iminium intermediates."}, {"name": "(2-phenylcyclopropyl)-substituted vinyl (radical clock, 30)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened diformyloxylation product 31 (49%) is obtained, implicating a benzylic radical intermediate."}, {"name": "cis- vs trans-β-methylstyrene (35)", "smiles": "C/C=C/c1ccccc1", "purpose": "intermediate_trap", "observation": "Both isomers give predominantly syn-diformate but with different dr (trans-35: 10:1; cis-35: 1:3 favoring 19'), showing partial memory of olefin geometry and supporting a stepwise cation/iminium pathway with stereoinversion at the second nucleophilic attack."}, {"name": "cyclic voltammetry of styrene 1 ± TFA ± DMF", "smiles": null, "purpose": "redox_probe", "observation": "Styrene oxidation feature at Ep/2 ≈ 1.7 V vs SCE; DMF oxidation only at 2.1 V; no anodic shift with TFA/DMF additives, confirming direct anodic oxidation of the alkene rather than mediation through DMF."}], "evidence_types_used": ["H/D_labeling", "radical_clock", "cyclic_voltammetry", "product_isotope_distribution", "isolation_of_intermediate", "crossover"], "evidence_strength": "strong", "notes": "Two competing pathways from the benzylic cation D are proposed: a minor 'direct' path where DMF attacks D to give the anti-product H', and a major path where trifluoroacetate first traps D to form isolable α-OCOCF3 iminium F, which then ionizes and is attacked by DMF with stereoinversion to give the syn-product H. The unusual syn-selectivity (and its partial dependence on starting alkene geometry) is rationalized by this TFA-mediated SN1-with-inversion sequence rather than by a concerted cyclic intermediate as in Woodward/Prévost/OsO4 chemistry. With a 1,3-diene (32), mono-oxidation gives a 3-OCOCF3 allylic intermediate (33) which can be converted to the diformate 34 by treatment with DMF/H2O, further supporting F-type intermediates."}
